US04734416
0.3 Gram of sodium metal is dissolved in 80 ml of ethanol and to this solution is added 3.6 g of 5-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril, then 1.5 g of benzoyl chloride are added and the solution is heated for 5 hours under refluxing conditions. The reaction mixture is concentrated under reduced pressure to dryness. To the residue thus obtained is added water and the insoluble matter is collected by filtration, washed with water and dried. The crude crystals are recrystallized from ligroin to obtain 3.9 g (yield: 86%) of 1-benzoyl-5-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril in the form of pale yellowish needle-like crystals with a melting point of 113° C.

reactant | sodium | [Na] | Na
reactant | 5-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | 3.6 g | C1(=CC=CC=C1)N1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C22H27N3O2
reactant | benzoyl chloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-benzoyl-5-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | 3.9 g, yield: 86% | C(C1=CC=CC=C1)(=O)N1C(=O)CCC2=C(C=CC=C12)OCCCN1CCN(CC1)C1=CC=CC=C1 | C29H31N3O3
